2195-04-08 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2195-4-7**] 12:40 PM
   needle changed [**2195-4-2**]
 NON-INVASIVE VENTILATION - START [**2195-4-7**] 01:40 PM
   Pt. with BPs in 80s, responded well to bolus of 500cc NS
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Flagyl (Oral) (Metronidazole)
   Diarrhea;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-8**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.6
C (96.1
   HR: 64 (60 - 81) bpm
   BP: 81/37(48) {76/23(35) - 109/57(57)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,373 mL
                                                                  1,508 mL
   PO:
             TF:
   IVF:
                                                                  1,373 mL
                                                                  1,508 mL
   Blood products:
   Total out:
                                                                     57 mL
                                                                     10 mL
   Urine:
                                                                     57 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,316 mL
                                                                  1,498 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 461 (416 - 1,656) mL
   PS : 15 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 4 L/min
   Physical Examination
   General: NAD
   HEENTMMM
   Neck: supple, no LAD
   Lungs: Clear to auscultation bilaterally anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, soft systolic murmur but
   difficult to auscultate over breath sounds. most notable at LLSB
   Abdomen: soft, mildly distended, no R/G, bowel sounds present, no
   organomegaly
   Ext: Warm, well perfused, 2+ pulses, large bandage on right arm with
   eccymoses in R shoulder, and brace on right leg, bandages on both lower
   extremities with 2+; multiple skins tears with wound care
   Labs / Radiology
   104 K/uL
   8.6 g/dL
   91 mg/dL
   2.7 mg/dL
   19 mEq/L
   4.3 mEq/L
   79 mg/dL
   112 mEq/L
   140 mEq/L
   27.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2195-4-3**]  02:22 AM
                             [**2195-4-3**]  04:43 AM
                             [**2195-4-3**]  12:28 PM
                             [**2195-4-4**]  06:05 AM
                             [**2195-4-5**]  05:17 AM
                             [**2195-4-7**]  03:25 PM
                             [**2195-4-8**]  04:00 AM
                             [**2195-4-8**]  04:17 AM
   WBC
   4.6
   6.4
   7.3
   10.5
   Hct
   25.2
   24.9
   26
   24.5
   24.3
   27.5
   Plt
   114
   136
   132
   104
   Cr
   2.9
   2.7
   2.4
   2.7
   2.7
   Glucose
   108
   94
   97
   127
   107
   91
   Other labs: PT / PTT / INR:10.7/27.5/0.9, ALT / AST:[**3-5**], Alk Phos / T
   Bili:75/0.4, Lactic Acid:0.7 mmol/L, LDH:189 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.0 mg/dL
                                                                [**2195-4-7**]
                                                                     9:57p
   _______________________________________________________________________
                                     pH
                                    7.05
                                    pCO2
                                     78
                                     pO2
                                     59
                                    HCO3
                                     23
                                   BaseXS
                                     -10
   Type:Mix
                                                                [**2195-4-7**]
                                                                     5:22p
   _______________________________________________________________________
                                     pH
                                    7.11
                                    pCO2
                                     73
                                     pO2
                                     39
                                    HCO3
                                     25
                                   BaseXS
                                     -9
   Type:[**Last Name (un) **]; Not Intubated; Cpap Mask; FiO2%:60; Rate:/16; PEEP:5;
   Temp:35.3
                                                                [**2195-4-7**]
                                                                     2:35p
   _______________________________________________________________________
                                     pH
                                    7.05
                                    pCO2
                                     85
                                     pO2
                                     47
                                    HCO3
                                     25
                                   BaseXS
                                     -10
   Type:Central Venous; Not Intubated; Vent:Spontaneous; FiO2%:60;
   Rate:/14; PEEP:5
                                                                [**2195-4-7**]
                                                                     1:14p
   _______________________________________________________________________
                                     pH
                                    7.02
                                    pCO2
                                     92
                                     pO2
                                     56
                                    HCO3
                                     26
                                   BaseXS
                                     -10
   Type:[**Last Name (un) **]
   freeCa:1.20
   Lactate:0.7
   CXR [**2195-4-7**]:
   In comparison with study of [**4-5**], there is continued enlargement of
   the cardiac silhouette. The pulmonary vessels are somewhat difficult to
   evaluate due to patient motion or breathing, but they do not appear to
   be
   appreciably engorged. There is increased opacification at the left base
   most
   likely related to atelectasis and effusion. However, in the absence of
   a
   lateral view, it is impossible to exclude overlying pneumonia.
   Central catheter remains in place.
   Assessment and Plan
   83F chronic hypoventilation, CRI c/b ARF in the setting of recent falls
   / fractures, IBD, DVT, MDS treated yesterday with lasix for low urine
   output, started on tramadol - hypotensive this AM despite 3L NS, vbg c
   pH 7.09, lac 0.8 - returns to unit for management of progressive
   hypercarbia and respiratory acidosis for non-invasive ventilation.
   # Hypotension:  Newly the day of transfer to the ICU.  The night prior
   was given Lasix IV x 2 the day prior.  Some concern for hypovolemia
   (but minimal urine output which limits bolusing)   Concern for possible
   infectious sepsis.  Many pending cultures.  She was bolused with NS x 3
   L and treated.  Additionally her steroid burst was decreased the day
   prior from Dexamethasone 4 mg TID to [**Hospital1 **] (she's chronically on steroids
   for her Crohn's disease so most likely adrenally insufficienct).
    - Decadron 4mg IV Q12
    - Continue Cefepime / Vancomycin
    - Follow-up Micro / C.diff (Negative x 3)
    - Follow-up urine and blood cultures
    - SBP 100 on arrival, will continue to bolus PRN for low pressure with
   careful consideration of respiratory status
   # Hypercarbic respiratory failure: On last admission to ICU, patient
   with worsened hypercarbia.  Unclear what CO2 level is today, bu pH
   7.09. Poor mask fit on floor with possible contribution of sedating
   meds, possibly Tramadol + morphine dosing for ongoing pain due to femur
   fracture. Other considerations include PE (given history, femur
   fracture and off Lovenox) vs PNA.  CXR today with worsened atelectasis
   vs effusion vs PNA.
   monitor vbgs while continuing NPPV for ongoing hypercarbic respiratory
   failure in addition to abx for possible LLL pneumonia.
    - Hold CTA, Ddimer given ARF/CKD
    - BiPAP
    - VBG now and post-BiPAP
    - IS as able
   # Fall with mulitple fractures and lacteration: Intraarticular right
   knee/femur fracture and right elbow fracture with associated head
   injury and deep laceration to right arm and tear of left leg. Patient
   became more sleepy with oxycodone, so this was discontinued.  She was
   then treated with 7 days of Cefazolin per Ortho recs.  This was
   discontinued [**2195-4-2**].
    - Pain management: Tylenol scheduled (PR while NPO), Morphine PRN
    - Hold Tramadol given change in respiratory status
    - Ortho recs (will need follows in 2 weeks with [**Doctor Last Name 3234**] [**Telephone/Fax (1) 11762**])
    - Vitamin A per Plastics
    - Take down brace once daily for skin checks
    - Avoid creams/lotions as may macerate skin further
    - Will need Plastics follow-up Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] @ [**Hospital3 290**]
   [**Telephone/Fax (1) 11763**]
    - Dressing changes Q3 days per Plastics
   # AMS: Suspect multifactorial including toxic-metabolic abnormalities
   (hypercarbia, infection); hospital delirium and/or infection that is
   being untreated.  Currently being treated for HAP; with hypercarbia on
   VBG.
    - Infectious work-up as above
    - Avoid sedating medications while trying to control pain
    - Avoid unnessary wake-ups
   # Oliguria: Patient with intermittent oliguria during hospitalization.
   This has been in conjunction with poor po intake and [**Last Name (un) **] on CKD.  Upon
   transfer patient is getting D5/NS at 125mL/hr.
    - Monitor urine output
    - Continue IVF for now
    - If poor urine output: Ulytes, UEos (multiple antibiotics exposures)
   .
   # Acute on chronic renal failure: Cr improved to 2.8 today. Per renal,
   somewhere between pre-renal and ATN. Renal ultrasound without
   hydronephrosis.   Previous baseline 1.7 - 2.
    - cont to monitor
    - Renally dose as appropriate
    - Kayexelate PR/PO if newly hyperkalemic
   # Acute on chronic anemia: History of myelodysplastic disorder, now
   with acute blood loss [**3-3**] to multiple eccymoses /  hematomas.  CT
   abdomen negative for RP bleed.  S/p 5U PRBC (last [**2195-4-5**]).
    - Steroids as above (increased dosing)
    - PPx Bactrim once taking improved PO
    - monitor Hct daily
    - T&S
    - B12 injections monthly, Folate
   .
   # Crohn's: During admission, has had diarrhea though may be related to
   Kayexelate given for hyperkalemia
    - continue mesalamine once tolerating PO
    - could consider Mesalamine enemas if truly thought to be flair
    - Increased steroids as above
    - On Cefepime for HAP
   .
   # Hx of PE/DVT: last DVT [**5-8**] with PICC. Was on lovenox at home, but
   now concern for bleeding in setting of significant laceractions and
   fractures. Lovenox held briefly while inpatient for acute blood loss
   anemia.
    - Lovenox daily, daily Hct
   # Loss of vision/cataracts: per daughter lost vision in left eye 2
   months ago, no eye evaluation since due to unable to get to doctors
   [**Name5 (PTitle) **].  Ophthalmology consulted while inpatient and recommended
   continuation of home eye drops.
    - Eye gtts per home regimen
   # Decubitus ulcer: Being followed by wound care with multiple
   recommendations.
    - Atmos Air Matress
    - Wound Care recs
   .
   # FEN: IVF while poor PO intake / Replete PRN & monitor for
   hyperkalemia / NPO while mental status poor
   .
   # Prophylaxis:
    - DVT ppx with lovenox
    - Bowel regimen
    - PPI given steroids
    - Insulin Sliding Scale while on increased Decadron
   .
   # Access: PIV, Port
   # Code: DNR/DNI per daughter (who is at the bedside)
   # Communication: Patient (Russsian)
   # Emergency Contact: Daughter
   # Disposition: ICU pending improvement
   Agree with plan to
   For hypotension - minimal evidence of systemic infection, poor response
   to fluids and limited ability to tolerate more volume - will add
   florinef for mineralocorticoid effect as she is only on dex right now
   and will monitor BP / UOP response. For fall, continue wound / skin
   care, tylenol and low dose morphine for pain. ARF on CRI - may be near
   new baseline, will follow UOP and Cr trend, vanco to level, RD meds.
   Plan of care d/w family. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2195-4-7**] 12:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2195-04-09 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Stable overnight. Bolused briefly for hypotension. On nasal canula for
   some of the night.
   [ ] family meeting
   [ ] current respiratory
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Flagyl (Oral) (Metronidazole)
   Diarrhea;
   Last dose of Antibiotics:
   Cefipime - [**2195-4-8**] 10:06 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-4-8**] 08:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-9**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.1
C (95.2
   HR: 83 (67 - 97) bpm
   BP: 76/27(39) {62/17(39) - 105/70(73)} mmHg
   RR: 23 (13 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,858 mL
                                                                     70 mL
   PO:
             TF:
   IVF:
                                                                  3,858 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                     25 mL
   Urine:
                                                                    120 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,738 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 278 (278 - 588) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   SpO2: 93%
   ABG: ///19/
   Ve: 9.4 L/min
   Physical Examination
   General: NAD
   HEENT: MMM
   Neck: supple, no LAD
   Lungs: Clear to auscultation bilaterally anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, soft systolic murmur but
   difficult to auscultate over breath sounds. most notable at LLSB
   Abdomen: soft, mildly distended, no R/G, bowel sounds present, no
   organomegaly
   Ext: Warm, well perfused, 2+ pulses, large bandage on right arm with
   eccymoses in R shoulder, and brace on right leg, bandages on both lower
   extremities with 2+; multiple skins tears with wound care
   Labs / Radiology
   141 K/uL
   9.0 g/dL
   90 mg/dL
   3.1 mg/dL
   19 mEq/L
   4.7 mEq/L
   82 mg/dL
   113 mEq/L
   139 mEq/L
   29.3 %
   15.0 K/uL
        [image002.jpg]
                             [**2195-4-3**]  02:22 AM
                             [**2195-4-3**]  04:43 AM
                             [**2195-4-3**]  12:28 PM
                             [**2195-4-4**]  06:05 AM
                             [**2195-4-5**]  05:17 AM
                             [**2195-4-7**]  03:25 PM
                             [**2195-4-8**]  04:00 AM
                             [**2195-4-8**]  04:17 AM
                             [**2195-4-8**]  07:32 PM
                             [**2195-4-9**]  03:37 AM
   WBC
   4.6
   6.4
   7.3
   10.5
   15.0
   Hct
   25.2
   24.9
   26
   24.5
   24.3
   27.5
   26.2
   29.3
   Plt
   114
   136
   132
   104
   141
   Cr
   2.9
   2.7
   2.4
   2.7
   2.7
   3.0
   3.1
   Glucose
   108
   94
   97
   127
   107
   91
   90
   Other labs: PT / PTT / INR:10.6/27.0/0.9, ALT / AST:[**3-5**], Alk Phos / T
   Bili:75/0.4, Lactic Acid:1.0 mmol/L, LDH:189 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:6.0 mg/dL
                                                                [**2195-4-9**]
                                                                    05:01a
   _______________________________________________________________________
                                     pH
                                    7.01
                                    pCO2
                                     76
                                     pO2
                                     53
                                    HCO3
                                     21
                                   BaseXS
                                     -13
   Type:Central Venous
                                                                [**2195-4-9**]
                                                                    04:28a
   _______________________________________________________________________
                                     pH
                                    7.06
                                    pCO2
                                     58
                                     pO2
                                     185
                                    HCO3
                                     17
                                   BaseXS
                                     -14
   Type:Central Venous; Green Top; Temp:35.1
   Lactate:1.0
                                                                [**2195-4-8**]
                                                                    10:49p
   _______________________________________________________________________
                                     pH
                                    7.08
                                    pCO2
                                     62
                                     pO2
                                     50
                                    HCO3
                                     19
                                   BaseXS
                                     -12
   Type:Mix
                                                                [**2195-4-8**]
                                                                     2:33p
   _______________________________________________________________________
                                     pH
                                    7.08
                                    pCO2
                                     66
                                     pO2
                                     71
                                    HCO3
                                     21
                                   BaseXS
                                     -11
   Type:Mix
   Lactate:0.6
                                                                [**2195-4-8**]
                                                                     2:20p
   _______________________________________________________________________
   Source: Catheter
   Other Urine Chemistry:
   UreaN:379
   Creat:50
   Na:41
   Osmolal:327
   FENa:
   Source: Catheter
   Color
   Yellow
   Appear
   Clear
   SpecGr
   1.013
   pH
   5.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Tr
   Bld
   Mod
   Nitr
   Neg
   Prot
   75
   Glu
   Neg
   Ket
   Tr
   RBC
   [**7-9**]
   WBC
   0-2
   Bact
   None
   Yeast
   None
   Epi
   0-2
   Other Urine Counts
   Eos: Negative No Eos Seen
   Assessment and Plan
   83F chronic hypoventilation, CRI c/b ARF in the setting of recent falls
   / fractures, IBD, DVT, MDS treated yesterday with lasix for low urine
   output, started on tramadol - hypotensive this AM despite 3L NS, vbg c
   pH 7.09, lac 0.8 - returns to unit for management of progressive
   hypercarbia and respiratory acidosis for non-invasive ventilation.
   # Hypotension with Concern for Sepsis: New hypotension on day of
   transfer back to ICU in the context of recent Lasix (given night prior
   to transfer with hope for increasing UOP) but minimal UOP. Concerning
   for sepsis especially given low temperatures and rising WBC. Cultures
   all pending. Some response to NS boluses but limited due to lack of
   UOP. Burst steroids slightly decreased day prior to transfer (4mg TID
   to [**Hospital1 **]). Patient likely has some degree of adrenal insufficiency given
   chronic steroid use (for Crohn
    - serial lactates
    - continue hydrocortisone succinate 100 mg [**Hospital1 **]
    - continue Cefepime / Vancomycin
   - Will start Flagyl IV today
    - Vanco level this morning 19.5 so will give next dose
    - follow-up Micro / C.diff (Negative x 3)
    - follow-up urine and blood cultures, check c diff x3
    - SBP 100 on arrival, will continue to bolus PRN for low pressure with
   careful consideration of respiratory status. Will target SBP in 80s,
   will give 250-500 D5 w/ 3 amps HCO3 cc bolus now.
   # Oliguria + Acute on Chronic Renal Failure: Intermittent and now
   worsening oliguria across hospitalization in conjunction with poor PO
   intake and acute on chronic renal insufficiency, likely pre-renal vs
   ATN. Creatinine slightly up on transfer to 2.8 from 2.5 now stable,
   baseline prior to admission ~1.7-2.0, renal U/S without hydronephrosis.
   Now making ~10-20 cc per hour in setting of significant hypotension and
   now with worsening metabolic acidosis. No eos on UA. FEUrea: 26.53%
    - continue to monitor urine output closely
    - renally dose all medications
    - continue IVF for now
    - urine lytes, urine eosinophils (multiple antibiotics exposures)
    - kayexelate PR/PO if becomes hyperkalemic
   - Will hold bactrim dose today
   .
   # Hypercarbic respiratory failure: Worsening hypercarbia across past
   weeks, now returning to ICU hypercarbic with ABG 7.02/92/26 ([**4-7**])
   possibly [**3-3**] poor mask fit on floor +/- sedating meds (tramadol +
   morphine for femur fracture) with likely contribution from an
   underlying PNA. CXR today with worsened atelectasis vs effusion vs PNA.
   Cannot r/o PE given history, femur fx, and currently being off lovenox
   ([**3-3**] renal function) however less likely given that she is on SQH ([**Hospital1 **])
   and that her hypercarbia improvement with BIPAP.
    - continue NPPV/BiPAP
    - monitor VBGs while continuing NPPV for ongoing hypercarbic
   respiratory failure in addition to abx for possible LLL pneumonia.
    - will hold on CTA given ARF/CKD; d-dimer not helpful in this context
    - IS as tolerated
   # Acidosis: Mixed respiratory and non-gap metabolic acidosis, with
   intermittent respiratory acidosis as above, and metabolic acidosis
   likely [**3-3**] declining renal function. ABG reflects progressive acidosis
   despite improved ventilation
 likely evolving ARF in the setting of
   hypotension and low UOP, check lactate.
   # AMS: multifactorial including toxic-metabolic, hypercapnia, hospital
   delirium +/- infection. Treating underlying causes as above.
    - Avoid sedating medications while trying to control pain
    - Avoid unnessary wake-ups
   - Will give Tylenol PR for pain
   .
   # Fall with mulitple fractures and lacteration: Intraarticular right
   knee/femur fracture and right elbow fracture with associated head
   injury and deep laceration to right arm and tear of left leg. Patient
   became more sleepy with oxycodone, so this was discontinued.  She was
   then treated with 7 days of Cefazolin per Ortho recs.  This was
   discontinued [**2195-4-2**].
    - Pain management: Tylenol scheduled (PR while NPO), Morphine PRN
    - Hold Tramadol given change in respiratory status
    - Ortho recs (will need follows in 2 weeks with [**Doctor Last Name 3234**] [**Telephone/Fax (1) 11762**])
    - Vitamin A per Plastics
    - Take down brace once daily for skin checks
    - Avoid creams/lotions as may macerate skin further
    - Will need Plastics follow-up Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] @ [**Hospital3 290**]
   [**Telephone/Fax (1) 11763**]
    - Dressing changes Q3 days per Plastics
   .
   # Acute on chronic anemia: History of myelodysplastic disorder, now
   with acute blood loss [**3-3**] to multiple eccymoses /  hematomas.  CT
   abdomen negative for RP bleed.  S/p 5U PRBC (last [**2195-4-5**]).
    - Steroids as above (increased dosing)
    - PPx Bactrim once taking improved PO
    - monitor Hct daily
    - T&S
    - B12 injections monthly, Folate
   .
   # Crohn's: During admission, has had diarrhea though may be related to
   Kayexelate given for hyperkalemia
    - continue mesalamine once tolerating PO
    - could consider Mesalamine enemas if truly thought to be flair
    - Increased steroids as above
    - On Cefepime for HAP
   .
   # Hx of PE/DVT: last DVT [**5-8**] with PICC. Was on lovenox at home, but
   now concern for bleeding in setting of significant laceractions and
   fractures.
   - Will continue Hep SC BID
   - Holding lovenox
   # Loss of vision/cataracts: per daughter lost vision in left eye 2
   months ago, no eye evaluation since due to unable to get to doctors
   [**Name5 (PTitle) **].  Ophthalmology consulted while inpatient and recommended
   continuation of home eye drops.
    - Eye gtts per home regimen
   # Decubitus ulcer: Being followed by wound care with multiple
   recommendations.
    - Atmos Air Matress
    - Wound Care recs
   # FEN:
    - IVF boluses as needed, w/ 3amps HCO3
    - Replete lytes PRN & monitor for hyperkalemia
    - NPO while mental status poor
   # Prophylaxis:
    - DVT ppx with lovenox
    - Bowel regimen
    - PPI given steroids
    - Insulin Sliding Scale while on increased Decadron
   # Access: PIV, Port
   # Code: DNR/DNI per daughter (who is at the bedside)
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   Indwelling Port (PortaCath) - [**2195-4-7**] 12:40 PM
   Prophylaxis:
   DVT: SQH [**Hospital1 **]
   Stress ulcer:
   Comments:
   Communication:  Patient (Russsian), Emergency Contact: Daughter
   [**Name2 (NI) 66**] status: DNR / DNI
   Disposition: ICU pending improvement

2195-04-10 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   BP in 80s. came up with 500 cc bolus. Use of CPAP was deferred
   initially cause Pt was doing well on NC, but then started around 4 AM.
   Pt noted to have new leukocytosis yesterday morning. Started flagyl
   then changed ABX to [**Last Name (un) 430**]. Across day had increasingly labored
   breathing, at times quite shallow (Vt ~ 150) and rapid (RR ~40). BPs in
   80s/30s.
   In the evening she had two distinct runs of VT which resolved.
   Resolved. Started amio gtt. Gave more HCO3 - total of ~2L. Gave 1x
   calcium chloride. Talked multiple times with family.
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Flagyl (Oral) (Metronidazole)
   Diarrhea;
   Last dose of Antibiotics:
   Cefipime - [**2195-4-8**] 10:06 PM
   Metronidazole - [**2195-4-9**] 12:18 PM
   Meropenem - [**2195-4-10**] 04:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-4-9**] 08:00 AM
   Amiodarone - [**2195-4-9**] 08:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-10**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 69 (60 - 100) bpm
   BP: 70/27(38) {64/19(32) - 112/57(62)} mmHg
   RR: 28 (16 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
    CO/CI (Fick): (17 L/min) / (9.8 L/min/m2)
   Mixed Venous O2% Sat: 84 - 84
   Total In:
                                                                  1,495 mL
                                                                    242 mL
   PO:
   TF:
   IVF:
                                                                  1,495 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                     22 mL
   Urine:
                                                                     75 mL
                                                                     22 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,420 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 207 (207 - 653) mL
   PS : 15 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: ///21/
   Ve: 5.4 L/min
   Physical Examination
   General: no apparent pain or distress but nonresponsive
   Lungs: Coarse sounds bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, soft systolic murmur but
   difficult to auscultate over breath sounds. most notable at LLSB
   Abdomen: soft, mildly distended, no R/G, bowel sounds present, no
   organomegaly
   Ext: Warm, well perfused, 2+ pulses, large bandage on right arm with
   eccymoses in R shoulder, and brace on right leg, bandages on both lower
   extremities with 2+; multiple skins tears with wound care
   Labs / Radiology
   140 K/uL
   7.3 g/dL
   93 mg/dL
   3.5 mg/dL
   21 mEq/L
   4.0 mEq/L
   89 mg/dL
   111 mEq/L
   139 mEq/L
   23.9 %
   11.8 K/uL
        [image002.jpg]
                             [**2195-4-3**]  12:28 PM
                             [**2195-4-4**]  06:05 AM
                             [**2195-4-5**]  05:17 AM
                             [**2195-4-7**]  03:25 PM
                             [**2195-4-8**]  04:00 AM
                             [**2195-4-8**]  04:17 AM
                             [**2195-4-8**]  07:32 PM
                             [**2195-4-9**]  03:37 AM
                             [**2195-4-9**]  07:43 PM
                             [**2195-4-10**]  03:25 AM
   WBC
   6.4
   7.3
   10.5
   15.0
   11.8
   Hct
   26
   24.5
   24.3
   27.5
   26.2
   29.3
   23.9
   Plt
   136
   132
   104
   141
   140
   Cr
   2.7
   2.4
   2.7
   2.7
   3.0
   3.1
   3.4
   3.5
   Glucose
   94
   97
   127
   107
   91
   90
   169
   93
   Other labs: PT / PTT / INR:10.6/27.9/0.9, ALT / AST:[**3-5**], Alk Phos / T
   Bili:75/0.4, Lactic Acid:0.8 mmol/L, LDH:189 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   83F chronic hypoventilation, CRI c/b ARF in the setting of recent falls
   / fractures, IBD, DVT, MDS treated yesterday with lasix for low urine
   output, started on tramadol - hypotensive this AM despite 3L NS, vbg c
   pH 7.09, lac 0.8 - returns to unit for management of progressive
   hypercarbia and respiratory acidosis for non-invasive ventilation.
   # Ventricular Tachycardia: two episodes last night, both spontaneously
   terminated. Likely [**3-3**] underlying metabolic disorders.
    - continue amiodarone
    - continue D5W with HCO3 as needed
   # Acidosis: Mixed respiratory and non-gap metabolic acidosis, with
   intermittent respiratory acidosis as above, and metabolic acidosis
   likely [**3-3**] declining renal function. ABG reflects progressive acidosis
   despite improved ventilation
 likely evolving ARF in the setting of
   hypotension and low UOP, check lactate.
   # Hypotension with Concern for Sepsis: New hypotension on day of
   transfer back to ICU in the context of recent Lasix (given night prior
   to transfer with hope for increasing UOP) but minimal UOP. Concerning
   for sepsis especially given low temperatures and rising WBC. Cultures
   all pending. Some response to NS boluses but limited due to lack of
   UOP. Burst steroids slightly decreased day prior to transfer (4mg TID
   to [**Hospital1 **]). Patient likely has some degree of adrenal insufficiency given
   chronic steroid use (for Crohn
    - serial lactates
    - continue hydrocortisone succinate 100 mg [**Hospital1 **]
    - continue Meropenem / Vancomycin
    - Vanco level this morning 19.5 so will give next dose
    - follow-up Micro / C.diff (Negative x 3)
    - follow-up urine and blood cultures, check c diff x3
    - SBP 100 on arrival, will continue to bolus PRN for low pressure with
   careful consideration of respiratory status. Will target SBP in 80s,
   will give 250-500 D5 w/ 3 amps HCO3 cc bolus now.
   # Oliguria + Acute on Chronic Renal Failure: Intermittent and now
   worsening oliguria across hospitalization in conjunction with poor PO
   intake and acute on chronic renal insufficiency, likely pre-renal vs
   ATN. Creatinine slightly up on transfer to 2.8 from 2.5 now stable,
   baseline prior to admission ~1.7-2.0, renal U/S without hydronephrosis.
   Now making ~10-20 cc per hour in setting of significant hypotension and
   now with worsening metabolic acidosis. No eos on UA. FEUrea: 26.53%
    - continue to monitor urine output closely
    - renally dose all medications
    - continue IVF for now
    - urine lytes, urine eosinophils (multiple antibiotics exposures)
    - kayexelate PR/PO if becomes hyperkalemic
   - Will hold bactrim dose today
   .
   # Hypercarbic respiratory failure: Worsening hypercarbia across past
   weeks, now returning to ICU hypercarbic with ABG 7.02/92/26 ([**4-7**])
   possibly [**3-3**] poor mask fit on floor +/- sedating meds (tramadol +
   morphine for femur fracture) with likely contribution from an
   underlying PNA. CXR today with worsened atelectasis vs effusion vs PNA.
   Cannot r/o PE given history, femur fx, and currently being off lovenox
   ([**3-3**] renal function) however less likely given that she is on SQH ([**Hospital1 **])
   and that her hypercarbia improvement with BIPAP.
    - continue NPPV/BiPAP
    - monitor VBGs while continuing NPPV for ongoing hypercarbic
   respiratory failure in addition to abx for possible LLL pneumonia.
    - will hold on CTA given ARF/CKD; d-dimer not helpful in this context
    - IS as tolerated
   # AMS: multifactorial including toxic-metabolic, hypercapnia, hospital
   delirium +/- infection. Treating underlying causes as above.
    - Avoid sedating medications while trying to control pain
    - Avoid unnessary wake-ups
   - Will give Tylenol PR for pain
   .
   # Fall with mulitple fractures and lacteration: Intraarticular right
   knee/femur fracture and right elbow fracture with associated head
   injury and deep laceration to right arm and tear of left leg. Patient
   became more sleepy with oxycodone, so this was discontinued.  She was
   then treated with 7 days of Cefazolin per Ortho recs.  This was
   discontinued [**2195-4-2**].
    - Pain management: Tylenol scheduled (PR while NPO), Morphine PRN
    - Hold Tramadol given change in respiratory status
    - Ortho recs (will need follows in 2 weeks with [**Doctor Last Name 3234**] [**Telephone/Fax (1) 11762**])
    - Vitamin A per Plastics
    - Take down brace once daily for skin checks
    - Avoid creams/lotions as may macerate skin further
    - Will need Plastics follow-up Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] @ [**Hospital3 290**]
   [**Telephone/Fax (1) 11763**]
    - Dressing changes Q3 days per Plastics
   .
   # Acute on chronic anemia: History of myelodysplastic disorder, now
   with acute blood loss [**3-3**] to multiple eccymoses /  hematomas.  CT
   abdomen negative for RP bleed.  S/p 5U PRBC (last [**2195-4-5**]).
    - Steroids as above (increased dosing)
    - PPx Bactrim once taking improved PO
    - monitor Hct daily
    - T&S
    - B12 injections monthly, Folate
   .
   # Crohn's: During admission, has had diarrhea though may be related to
   Kayexelate given for hyperkalemia
    - continue mesalamine once tolerating PO
    - could consider Mesalamine enemas if truly thought to be flair
    - Increased steroids as above
    - On Cefepime for HAP
   .
   # Hx of PE/DVT: last DVT [**5-8**] with PICC. Was on lovenox at home, but
   now concern for bleeding in setting of significant laceractions and
   fractures.
   - Will continue Hep SC BID
   - Holding lovenox
   # Loss of vision/cataracts: per daughter lost vision in left eye 2
   months ago, no eye evaluation since due to unable to get to doctors
   [**Name5 (PTitle) **].  Ophthalmology consulted while inpatient and recommended
   continuation of home eye drops.
    - Eye gtts per home regimen
   # Decubitus ulcer: Being followed by wound care with multiple
   recommendations.
    - Atmos Air Matress
    - Wound Care recs
   # FEN:
    - IVF boluses as needed, w/ 3amps HCO3
    - Replete lytes PRN & monitor for hyperkalemia
    - NPO while mental status poor
   # Prophylaxis:
    - DVT ppx with lovenox
    - Bowel regimen
    - PPI given steroids
    - Insulin Sliding Scale while on increased Decadron
   # Access: Port
   # Code: DNR/DNI per daughter (who is at the bedside)
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   Indwelling Port (PortaCath) - [**2195-4-7**] 12:40 PM
   Prophylaxis:
   DVT: SQH [**Hospital1 **]
   Stress ulcer:
   Comments:
   Communication:  Patient (Russsian), Emergency Contact: Daughter
   [**Name2 (NI) 66**] status: DNR / DNI
   Disposition: ICU pending improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2195-4-7**] 12:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: